US09427475B2
Step D: 2-aminoethyl β-D-mannopyranoside
A mixture of benzyl[2-(β-D-mannopyranosyloxy)ethyl]carbamate (133 mg, 0.372 mmol), and Pd/C (20 mg, 0.019 mmol) in water (5 mL) was allowed to stir under a balloon of H2 at rt for 4 hr. The catalyst was filtered off and washed with H2O (3×5 mL). The fitrate was concentrated to give the title compound. 1H NMR (CD3OD) δ 4.53-4.52 (1H, m), 3.93-3.85 (3H, m), 3.72-3.64 (2H, m), 3.53-3.49 (1H, m), 3.44-3.42 (1H, m), 3.22-3.18 (1H, m), 2.92-2.85 (2H, m).

reactant | benzyl[2-(β-D-mannopyranosyloxy)ethyl]carbamate | 0.372 mmol, 133 mg | C(C1=CC=CC=C1)OC(NCCO[C@H]1[C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)=O | C16H23NO8
solvent | water | 5 mL | O | H2O
catalyst | Pd/C | 0.019 mmol, 20 mg | [Pd] | Pd
product | 2-aminoethyl β-D-mannopyranoside | O([C@H]1[C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CCN | C8H17NO6
